US07238716B2
To a mixture of [2-[[6-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]-3-pyridyl]methoxy]-3-pyridyl]methanol (2.55 g), triethylamine (1.27 g) and ethyl acetate (200 mL) was dropwise added methanesulfonyl chloride (1.44 g) under ice-cooling and the mixture was stirred at room temperature for 3 hrs. The reaction mixture was washed successively with water, saturated aqueous sodium hydrogencarbonate and saturated brine, dried over anhydrous magnesium sulfate, and concentrated to give an oil. To a mixture of this oil and dimethyl sulfoxide (30 mL) was added an aqueous solution (3 mL) of sodium cyanide (0.77 g) at room temperature and the mixture was stirred at room temperature for 15 hrs. To the reaction mixture was added water and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The obtained residue was subjected to silica gel column chromatography to give crystals (1.85 g, 71%) of 2-[2-[[6-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]-3-pyridyl]methoxy]-3-pyridyl]acetonitrile from a fraction eluted with ethyl acetate-hexane (1:2, v/v). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 110-111° C.

reactant | [2-[[6-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]-3-pyridyl]methoxy]-3-pyridyl]methanol | 2.55 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=N1)COC1=NC=CC=C1CO | C23H21N3O4
reactant | triethylamine | 1.27 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.44 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium cyanide | 3 mL, 0.77 g | [C-]#N.[Na+]
solvent | water | O | H2O
solvent | dimethyl sulfoxide | 30 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 2-[2-[[6-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]-3-pyridyl]methoxy]-3-pyridyl]acetonitrile | 1.85 g, 71% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=N1)COC1=NC=CC=C1CC#N | C24H20N4O3
